US08629282B2
To a solution of (3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)methanol (5.24 g, 21.6 mmol) in acetone (75 mL) at room temperature (immersed in a water bath) was added Jones' Reagent (43.8 mL, 53.9 mmol) via addition funnel slowly over 1.5 h. The dark reaction mixture was stirred at room temperature overnight. By HPLC, the reaction was 93% complete. An additional 0.5 equivalents (9 mL) of the Jones' Reagent was added. After 1 h, the reaction was 95% complete. After an additional 3 h, the reaction was 96% complete. An additional 0.5 equivalents (9 mL) of the Jones' Reagent was added. The reaction mixture was stirred for an additional 2.5 h. By HPLC, the reaction was 97% complete. Isopropyl alcohol (6 mL) was added, and the mixture was stirred for 90 min, resulting in a dark green precipitate. The mixture was diluted with ether (600 mL), washed with a 2% aqueous solution of sodium hydrogen sulfite (5×100 mL), and the organic layer was collected. The aqueous layer was back-extracted with ether (2×100 mL). By HPLC, there was no additional product in the aqueous layer. The combined organic layers were washed with water (100 mL), washed with a saturated aqueous solution of brine (100 mL), and dried over anhydrous sodium sulfate. The aqueous layer was back-extracted with ether (100 mL), and the organic layer was added to the previous organic layers. The solution was concentration under reduced pressure to give 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylic acid as an off-white solid. The solid was diluted with dichloromethane (200 mL), washed with a 2% aqueous solution of sodium hydrogen sulfite, washed with brine, and dried over anhydrous sodium sulfate. Concentration under reduced pressure afforded 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylic acid (3.84 g, 14.93 mmol, 69.3% yield) as a pale yellow solid. The product was 96% pure by HPLC with a ret. time=1.60 min.—Column: CHROMOLITH® SpeedROD 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=258.2.

reactant | (3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)methanol | 21.6 mmol, 5.24 g | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)CO | C11H8F3NO2
reactant | Jones' Reagent | 53.9 mmol, 43.8 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Jones' Reagent | 9 mL, 0.5 equivalents | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Jones' Reagent | 9 mL, 0.5 equivalents | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Isopropyl alcohol | 6 mL | C(C)(C)O | C3H8O
solvent | acetone | 75 mL | CC(=O)C | C3H6O
solvent | ether | 600 mL | CCOCC | C4H10O
product | 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylic acid | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C(=O)O | C11H6F3NO3
